Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flagyl / morphine / oxycodone
 
Attending: ___.
 
Chief Complaint:
neck pain

 
Major Surgical or Invasive Procedure:
laryngoscope, ___

 
History of Present Illness:
___ is a ___ female who presented to ___ 
with posterior right sided neck pain, found to have 
retrophyarngeal edema on CT, and transferred to ___ for 
further management.

 She was transferred to ___ for further management.  She 
reports that early ___, she woke up around 4:30 AM 
with stiff neck.  She originally thought this was a muscle type 
pain, for which she took Motrin and some Flexeril from a 
previous prescription.  In the evening, she went to dinner, and 
reported pain with swallowing in her posterior throat, with the 
pain radiating towards the back of her neck.  She reports that 
the pain subsequently became excruciating, significantly 
worsened by any movement, prompting her to present care.  She 
notes she went to the dentist three days ago for a routine 
cleaning, but otherwise denies any other inciting events.  No 
sick contacts.   She also thought her voice was somewhat hoarse 
earlier today but improved when she was given steroids and IV 
antibiotics.  She otherwise denies fevers and chills, shortness 
of breath, wheezing, chest pain, nausea, vomiting, diarrhea, 
confusion, headaches, visual changes.

In the ED, initial VS were 99.8 92 165/97 18 96% RA. 
Labs notable for CBC with WBC 12.5, H/H of 12.8/36.9, plt 264. 
BMP WNL.
She received IV dilaudid 0.5 x 8, unasyn IV x 3, dexamethasone 
10 mg IV x 2 and normal saline. She also received IV ketorolac x 
1. 
CXR negative.
She was seen by ENT and underwent scope which showed posterior 
wall erythema and mild edema, but otherwise patent airways.
 
Upon arrival to the floor, the patient tells the story as above. 
 She reports that her pain was poorly controlled in the ED, and 
that the providers were concerned about giving her Dilaudid with 
her respiratory status.  She reports that she received Toradol 
with significant improvement in her pain.  She reports that she 
has much improved range of motion of her neck, although pain 
persists in the right posterior neck.

 
Past Medical History:
- gallbladder disease 
- GERD
- HTN
- Migraines 
 
Social History:
___
Family History:
+ CAD (father). + rheumatoid arthritis (maternal grandmother)

 
Physical Exam:
Vitals: 97.9 PO 108 / 70 74 18 97 RA 
Gen: Lying in bed in no apparent distress, awake and alert, 
guarded
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact, minimal 
ROM of neck, no asymmetrical swelling, neck tender, no LAD
MSK: No edema, neck ROM limited only when extending
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect
 
Pertinent Results:
___ 07:45AM BLOOD WBC-19.2*# RBC-3.74* Hgb-11.8 Hct-35.7 
MCV-96 MCH-31.6 MCHC-33.1 RDW-12.5 RDWSD-44.0 Plt ___
___ 07:45AM BLOOD Glucose-89 UreaN-13 Creat-0.7 Na-147* 
K-4.6 Cl-107 HCO3-27 AnGap-13
___ 07:45AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.3

Fiberoptic Exam ___ per ENT
In the context of the patient's clinical presentation and the
need to visualize the regions in close proximity, the decision
was made to proceed with an endoscopic exam.  Accordingly, after
verbal consent, the fiberoptic scope was passed to visualize the
regions of concern.  The findings were:

Normal nasal cavity, no pus or polyps
Normal nasopharynx, no masses
Normal oropharynx
Epiglottis crisp
Supraglottic area normal
Arytenoid complexes mobile bilaterally/symetrically
True vocal folds symmetric and mobile bilaterally
No significant pooling of secretions
Posterior pharyngeal wall is erythematous with mild edema,
although can still visualize complete glottis 

Fiberoptic Exam ___ per ENT
Fiberoptic exam shows no masses or lesions in the oropharynx,
hypopharynx or larynx, no edema or bulging of the A-P diameter 
of
the oropharynx or hypopharynx, widely patent airway with mobile
cords and arytenoids bilaterally.
 
Brief Hospital Course:
___ is a ___ female who presented to ___ 
with posterior right sided neck pain, found to have 
retrophyarngeal edema on CT, and transferred to ___ for 
further management.

ACUTE/ACTIVE PROBLEMS:
# Acute retropharyngeal edema, without drainable collection: 
Patient presented with right-sided neck pain, CT scan 
significant for retropharyngeal edema without drainable 
collection, thought to likely be infectious in the setting of 
recent dental work.  She underwent fiberoptic scope via ENT 
which showed posterior pharyngeal wall edema, with complete 
visualization of the epiglottis and vocal cords.  She was been 
treated empirically with IV steroids and IV Unasyn. On repeat 
scope via ENT, resolution of edema noted. At no point was there 
any concern for airway compromise or difficulty swallowing. She 
was transitioned to oral antibiotics to complete her course as 
an outpatient. On day of discharge, pt was clinically stable 
with no concern for active/uncontrolled infection. WBC of 19 on 
day of discharge most likely due to steroids. ENT recommended 
sending second opinion request asking Neuroradiology to read OSH 
scan specifically looking for calcific tendinitis of the longus 
___. The read was pending at the time of discharge. We will 
ask that she follow up with her primary care physician at her 
next appointment for results.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nortriptyline 75 mg PO QHS 
2. rizatriptan 10 mg oral DAILY:PRN 
3. LORazepam 0.5 mg PO DAILY:PRN migraine 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Pantoprazole 40 mg PO Q12H 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 po by mouth 
twice a day Disp #*14 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  LORazepam 0.5 mg PO DAILY:PRN migraine  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Nortriptyline 75 mg PO QHS  
6.  Pantoprazole 40 mg PO Q12H  
7.  rizatriptan 10 mg oral DAILY:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
retropharyngeal edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for retropharyngeal swelling 
thought to be most likely due to a recent dental cleaning. ENT 
performed a laryngoscope and showed no concern for airway 
compromise. You were treated with IV steroids, 
anti-inflammatories, and antibiotics and improved. On repeat 
laryngoscope, your edema had resolved. You had improved range of 
motion of your neck. You are clinically stable and ready for 
discharge to home to complete your antibiotic course as an 
outpatient.   

Although we feel confident that your edema was a result of the 
dental procedure given the time course, ENT asked that radiology 
provide a second opinion read of the CT neck done at the outside 
hospital looking for a rare condition called calcific tendinitis 
of the longus ___. This read was pending at the time of your 
discharge. Please ask your primary care physician to review the 
results with you.
 

 
Followup Instructions:
___